US07786129B2
3-Ethyl-3-{4-[4-(4-fluorophenyl)-piperazin-1-yl]-butyl}-5-methyl-1,3-dihydro-2H-indol-2-one
The title compound is prepared according to process H by applying processing method 1 from 3-(4-chlorobutyl)-3-ethyl-5-methyl-1,3-dihydro-2H-indol-2-one and 1-(4-fluorophenyl-)-piperazine.

reactant | 3-(4-chlorobutyl)-3-ethyl-5-methyl-1,3-dihydro-2H-indol-2-one | ClCCCCC1(C(NC2=CC=C(C=C12)C)=O)CC | C15H20ClNO
reactant | 1-(4-fluorophenyl-)-piperazine | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
product | 3-Ethyl-3-{4-[4-(4-fluorophenyl)-piperazin-1-yl]-butyl}-5-methyl-1,3-dihydro-2H-indol-2-one | C(C)C1(C(NC2=CC=C(C=C12)C)=O)CCCCN1CCN(CC1)C1=CC=C(C=C1)F | C25H32FN3O
